US07935699B2
3-Nitro-1-iso-pentyl-1H-pyrazole (115 mg, 0.63 mmol) was dissolved in ethyl acetate (3 mL) and methanol (3 mL) was added. Palladium, 10 wt. % on activated carbon, wet (˜50 mg) was added to the reaction. The vial was charged with hydrogen gas (via balloon) and the reaction stirred for 16 h at 25° C. The reaction was passed through a plug of celite and concentrated in vacuo to afford 1-iso-pentyl-1H-pyrazol-3-ylamine (89 mg, 93%) as golden oil: ESI-LRMS m/e calcd for C8H15N3 [M+] 153.1, found 154.3 [M+H+].

reactant | 3-Nitro-1-iso-pentyl-1H-pyrazole | 0.63 mmol, 115 mg | [N+](=O)([O-])C1=NN(C=C1)CCC(C)C | C8H13N3O2
reactant | methanol | 3 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium | [Pd] | Pd
product | 1-iso-pentyl-1H-pyrazol-3-ylamine | 89 mg, 93% | C(CC(C)C)N1N=C(C=C1)N | C8H15N3
